US04895849
Synthesis of dl-5-chloro-6-ethyl-4-[α-ethyl-4-(sec-amyloxy)benzyl]aminopyrimidine (Compound No. 103)
To a solution of 1.1 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine.sodium salt dissolved in 30 ml of N,N-dimethylformamide was added 0.6 g of 2-bromopentane, and the mixture was stirred at 90° to 100° C. for 8 hours. After completion of the reaction, the reaction mixture was poured into water and separated oily product was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and ethyl acetate was distilled off under reduced pressure. The oily product obtained was isolated by column chromatography (Wako Gel C-200, trade name, eluted with toluene:ethyl acetate=7:1) to give 0.4 g of the desired product as pale yellow liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine | 1.1 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | sodium | [Na] | Na
reactant | 2-bromopentane | 0.6 g | BrC(C)CCC | C5H11Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dl-5 chloro-6-ethyl-4-[α-ethyl-4-(sec-amyloxy)benzyl]aminopyrimidine | 0.4 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OC(C)CCC)CC)CC | InChI=1S/C20H28ClN3O.C18H34N4O2/c1-5-8-14(4)25-17-11-9-15(10-12-17)18(7-3)23-19-13-16(6-2)22-20(21)24-19;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h9-14,18H,5-8H2,1-4H3,(H,22,23,24);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
